US05703092
(a). N-benzyloxycarbonyl-1(S)-(5-methoxybenzimidazol-2-yl)-3-methylbutylamine
To a mixture of N-benzyloxycarbonyl-L-leucine (20 mmol, 5.3 g), 4-methoxy-1,2-phenylenediamine dihydrochloride (4.22 g, 20 mmol) and O-benzotriazole-N,N,N',N'-tetramethyl-uronium-tetrafluoroborate (TBTU) (6.58 g, 20.50 mmol) in 15 mL DMF cooled in an ice bath was added diisopropylethylamine (14 mL, 80 mmol). After stirring for 2 hours, ethyl acetate was added and the solution was washed with saturated NaHCO3 3 times and brine 3 times, dried (MgSO4), and concentrated. The crude product was dissolved in 30 mL acetic acid and the solution was heated at 65° C. for 2 hours. Acetic acid was removed by concentration under reduced pressure and the residue was purified on a silica gel column using methanol (3%)-methylene chloride as eluent to give 5.5 g (80%) product. m.p. 73°-77° C. ES-MS: calcd M+1 368.2; found 368.3.

reactant | N-benzyloxycarbonyl-L-leucine | 20 mmol, 5.3 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC(C)C)C(=O)O | C14H19NO4
reactant | 4-methoxy-1,2-phenylenediamine dihydrochloride | 20 mmol, 4.22 g | Cl.Cl.COC1=CC(=C(C=C1)N)N
reactant | O-benzotriazole-N,N,N',N'-tetramethyl-uronium tetrafluoroborate | 20.50 mmol, 6.58 g | CN(C)C(=[N+](C)C)ON1C2=CC=CC=C2N=N1.F[P-](F)(F)(F)(F)F.F[B-](F)(F)F
reactant | diisopropylethylamine | 80 mmol, 14 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-benzyloxycarbonyl-1(S)-(5-methoxybenzimidazol-2-yl)-3-methylbutylamine | 5.5 g, 80% | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC(C)C)C=1NC2=C(N1)C=CC(=C2)OC | C21H25N3O3
